US05183820
6-Fluoro-2,3,4,5-tetrahydro-5-(1-methylethyl)-1H-pyrido[4,3-b]indol-1-one
A stirred solution of 6-fluoro-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one (1.006 g) in dry DMF (50 ml) was treated with sodium hydride (73.2% dispersion in oil; 333 mg) and stirred under nitrogen for 1 h. Isopropyl bromide (663 mg) was then added, and the solution was stirred at room temperature for 30 min and then at 50° for 12 h. A further portion of isopropyl bromide (150 mg) was then added, and the reaction was then stirred under nitrogen at 50° for ca. 60 h. The mixture was then cooled to room temperature and added to water (300 ml). The mixture was then extracted with dichloromethane (3×200 ml), adsorbed onto silica, and purified by FCC eluting with System A (150:8:1) to give a solid (240 mg) which was triturated with ether to give the title compound (130 mg), m.p. 183°-184°.

reactant | 6-fluoro-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one | 1.006 g | FC1=CC=CC=2C3=C(NC12)CCNC3=O | C11H9FN2O
reactant | sodium hydride | 333 mg | [H-].[Na+]
reactant | Isopropyl bromide | 663 mg | C(C)(C)Br | C3H7Br
reactant | isopropyl bromide | 150 mg | C(C)(C)Br | C3H7Br
reactant | water | 300 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 6-Fluoro-2,3,4,5-tetrahydro-5-(1-methylethyl)-1H-pyrido[4,3-b]indol-1-one | 240 mg | FC1=CC=CC=2C3=C(N(C12)C(C)C)CCNC3=O | C14H15FN2O
